US09169187B2
(3,4,5-Tris-octadecyloxy-cyclohexyl)-methanol (283 mg, 308 μmol), 4-hydroxy-benzaldehyde (56 mg, 459 μmol), triphenylphosphine (121 mg, 461 μmol) dissolved in dehydrated THF (5.5 mL), DIED (93.3 μL, 472 μmol) was added and the mixture was stirred for 40 min. 4-Hydroxy-benzaldehyde, triphenylphosphine and DIED (each 153 μmol) were added and the mixture was stirred overnight. Triphenylphosphine and DIED (each 306 μmol) were added and the mixture was stirred for 2.5 hr. THF was evaporated, and 90% aqueous acetonitrile (6 ml) was added to the residue to allow crystallization. The crystals were collected by filtration and thoroughly washed with acetonitrile to give crude crystals of 4-(3,4,5-tris-octadecyloxy-cyclohexylmethoxy)-benzaldehyde. The crude crystals were purified by silica gel column chromatography (hexane:ethyl acetate=20:1) to give the object compound (130 mg, 127 μmol, 41%).

reactant | (3,4,5-Tris-octadecyloxy-cyclohexyl)-methanol | 308 μmol, 283 mg | C(CCCCCCCCCCCCCCCCC)OC1CC(CC(C1OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC)CO | C61H122O4
reactant | 4-hydroxy-benzaldehyde | 459 μmol, 56 mg | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | triphenylphosphine | 461 μmol, 121 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 5.5 mL | C1CCOC1 | C4H8O
product | 4-(3,4,5-tris-octadecyloxy-cyclohexylmethoxy)-benzaldehyde | C(CCCCCCCCCCCCCCCCC)OC1CC(CC(C1OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC)COC1=CC=C(C=O)C=C1 | C68H126O5
